US04221737
EXAMPLE 14 1-Benzenesulfonyl-2-(2-propynylamino)-2-{2-[(4-methyl-1H-imidazol-5-yl)methylthio]ethylamino}ethylene
Reaction of methylphenylsulfone with carbon disulphide under strongly basic conditions and treatment of the product with methyl iodide yields 1-benzenesulphonyl-2,2-bis(methylthio)ethylene. When 1-benzenesulfonyl-2,2-bis(methylthio)ethylene is reacted with 2-[(4-methyl-1H-imidazol-5-yl)-methylthio]ethylamine according to the procedure of Example 6, Step A, the product is 1-benzenesulfonyl-2-methylthio-2-{2-[(4-methyl-1H-imidazol-5-yl)methylthio]ethylamino}ethylene. Reaction of this methylthio compound with propargylamine by the procedure of Example 6, Step B, yields the title compound.

reactant | 1-benzenesulfonyl-2,2-bis(methylthio)ethylene | C1(=CC=CC=C1)S(=O)(=O)C=C(SC)SC | C10H12O2S3
reactant | 2-[(4-methyl-1H-imidazol-5-yl)-methylthio]ethylamine | CC=1N=CNC1CSCCN | C7H13N3S
reactant | 1-benzenesulfonyl-2-methylthio-2-{2-[(4-methyl-1H-imidazol-5-yl)methylthio]ethylamino}ethylene | C1(=CC=CC=C1)S(=O)(=O)C=C(NCCSCC1=C(N=CN1)C)SC | C16H21N3O2S3
reactant | propargylamine | C(C#C)N | C3H5N
product | 1-Benzenesulfonyl-2-(2-propynylamino)-2-{2-[(4-methyl-1H-imidazol-5-yl)methylthio]ethylamino}ethylene | C1(=CC=CC=C1)S(=O)(=O)C=C(NCCSCC1=C(N=CN1)C)NCC#C | C18H22N4O2S2
